US04985588
Into a 1 l glass reactor equipped with a condenser, 291 g (1 mol) of 2,2,2-trifluoroethyl 2,4-dichloro-5-fluorobenzoate, 87 g (1.5 mol) of spray dried potassium fluoride and 500 g of sulforane were charged and reacted at 180° C. for 9 hours under vigorous stirring. After cooling, the inorganic salt was removed by filtration, and the filtrate was distilled under reduced pressure to obtain 239.4 g (yield: 87.2%) of 2,2,2-trifluoroethyl 2-chloro-4,5-difluorobenzoate.

reactant | 2,2,2-trifluoroethyl 2,4-dichloro-5-fluorobenzoate | 1 mol, 291 g | ClC1=C(C(=O)OCC(F)(F)F)C=C(C(=C1)Cl)F | C9H4Cl2F4O2
reactant | potassium fluoride | [F-].[K+]
product | 2,2,2-trifluoroethyl 2-chloro-4,5-difluorobenzoate | 239.4 g, yield: 87.2% | ClC1=C(C(=O)OCC(F)(F)F)C=C(C(=C1)F)F | C9H4ClF5O2
